US08486953B2
4-(4-Carbamoyl-2-ethoxyphenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylic acid
A suspension of methyl 4-(4-carbamoyl-2-ethoxyphenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate (0.025 g, 0.06 mmol) in ammonium hydroxide (1.5 mL) was heated at 150° C. in a sealed-tube for 16 hours. The ammonium hydroxide was concentrated in vacuo and the residue redissolved in dimethyl sulfoxide. The sample was purified by reverse phase preparative HPLC to yield white solid (0.007 g, 29%).

reactant | methyl 4-(4-carbamoyl-2-ethoxyphenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate | 0.06 mmol, 0.025 g | C(N)(=O)C1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)OC)OCC | C18H18N4O4S
solvent | ammonium hydroxide | 1.5 mL | [OH-].[NH4+]
product | 4-(4-Carbamoyl-2-ethoxyphenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylic acid | 0.007 g, 29% | C(N)(=O)C1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)OCC | C17H16N4O4S
